US06002008
4-(N-Methylphenylamino)-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with N-methylaniline gave the title compound as a tan solid, mp 153-155° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | 4-(N-Methylphenylamino)-6,7-diethoxy-3-quinolinecarbonitrile | CN(C1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N)C1=CC=CC=C1 | C21H21N3O2
